US09029538B2
4-Chloro-5,7-dimethoxyquinoline (100 mg, 0.40 mmol) and p-nitrophenol (124 mg, 0.89 mmol) in chlorobenzene (2 mL) was heated at reflux for 14 h. Then the reaction mixture was cooled to rt, filtered, and the residue washed with toluene. The solid was suspended in 10% NaOH solution and stirred for 1 h at rt. The yellow solid was collected and washed with EtOAc to give 5,7-dimethoxy-4-(4-nitrophenoxy)quinoline. LCMS m/z=327 (M+1); 1H NMR (CDCl3) δ: 8.60 (d, 1H, J=6.0 Hz), 8.44 (d, 2, J=8.8 Hz), 7.72 (s, 1H), 7.35 (d, 2H, J=8.4 Hz) 6.71 (s, 1H), 6.69 (d, 2H, J=6.4 Hz), 4.08 (s, 3H), 3.97 (s, 3H).

reactant | 4-Chloro-5,7-dimethoxyquinoline | 0.40 mmol, 100 mg | ClC1=CC=NC2=CC(=CC(=C12)OC)OC | C11H10ClNO2
reactant | p-nitrophenol | 0.89 mmol, 124 mg | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | chlorobenzene | 2 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 5,7-dimethoxy-4-(4-nitrophenoxy)quinoline | COC1=C2C(=CC=NC2=CC(=C1)OC)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O5
